Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left flank pain
 
Major Surgical or Invasive Procedure:
1. Left ultrasound guided renal collecting system access. 
2. Left nephrostogram. 
3. 8 ___ nephrostomy tube placement. 

 
Physical Exam:
Vitals: ___ 0505 Temp: 98.8 PO BP: 109/69 HR: 90 RR: 18 O2
sat: 98% O2 delivery: RA Pain Score: ___ 
Gen: [x] NAD
Resp: [x] No evidence of respiratory distress
Abd: [x] soft  [x] non-tender, left flank tube,
minimal/appropriate tenderness, sero-sanguineous fluid in drain,
mostly serous 
Ext: [x] no edema [x] non-tender
 
Pertinent Results:
___ 04:26PM   PLT COUNT-387
___ 04:26PM   ___ PTT-30.8 ___
___ 04:26PM   NEUTS-69.5 ___ MONOS-8.3 EOS-1.6 
BASOS-0.3 IM ___ AbsNeut-6.80* AbsLymp-1.94 AbsMono-0.81* 
AbsEos-0.16 AbsBaso-0.03
___ 04:26PM   WBC-9.8 RBC-4.25 HGB-11.9 HCT-34.7 MCV-82 
MCH-28.0 MCHC-34.3 RDW-13.4 RDWSD-39.7
___ 04:26PM   WBC-9.8 RBC-4.25 HGB-11.9 HCT-34.7 MCV-82 
MCH-28.0 MCHC-34.3 RDW-13.4 RDWSD-39.7
___ 04:26PM   ___
___ 04:26PM   ALBUMIN-4.4
___ 04:26PM   ALT(SGPT)-6 AST(SGOT)-11 ALK PHOS-54 TOT 
BILI-0.3
___ 04:26PM   estGFR-Using this
___ 04:26PM   GLUCOSE-98 UREA N-10 CREAT-1.1 SODIUM-134* 
POTASSIUM-3.8 CHLORIDE-95* TOTAL CO2-26 ANION GAP-13
___ 12:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:00AM URINE  UHOLD-HOLD
___ 12:00AM URINE  HOURS-RANDOM

PUS ___
1.  Interval growth of two intrauterine gestational sacs, each 
containing a
yolk sac, but no embryonic poles at this point.  This is a 
normal finding in
sacs of these sizes.
2.  Unchanged uterine fibroids.  Unremarkable ovaries.

Placement of Nephrostomy catheter ___
FINDINGS: 
1.  Limited ultrasound demonstrates marked left hydronephrosis, 
as was seen on prior CT.
2.  Antegrade nephrostogram demonstrates significant 
hydronephrosis and
hydroureter, with focal area of narrowing within the distal left 
ureter.
3.  Successful act access of a posterior calyx.  Attempt at 
placing an 8
___ percutaneous nephroureteral tube was unsuccessful, and an 
8 ___
percutaneous nephrostomy tube was placed.
IMPRESSION: 
Successful placement of 8 ___ nephrostomy on the left.

 
Brief Hospital Course:
Ms. ___ was admitted after presenting with L flank pain in 
the setting of a known fibroid uterus and hydronephrosis. 
Patient with known fundal subserosal 12cm fibroid as well as 
left sided hydroneprhosis and hydroureter causing mild renal 
dysfunction
with Cr as high as 1.5 on ___. CT scan on ___ noted to 
have left distal ureteral stricture approximately 4 cm from the 
UVJ. Given inability to rule out urethral mass had planned 
ureteroscopy by Dr. ___ on ___ however on that day 
had
positive HCG.  She was seen by ___ and had a percutaneous 
nephrostomy tube placed, with almost complete resolution of her 
pain. She was otherwise afebrile, with out CVAT and was thus 
admitted for observation. A PUS demonstrated early twin 
pregnancy.

On HD1, her pain continued to be well controlled. She was seen 
by ___ and continued to be stable. She was scheduled for 
outpatient conversion of PCN to PCNU in ___ weeks. She was 
otherwise tolerating a regular diet, her pain was well 
controlled, was voiding and ambulating without issue. She was 
thus discharged home in stable condition with outpatient follow 
up. 
 
Medications on Admission:
acetaminophen
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain  
2.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hydronephrosis 
First trimester pregnancy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital to manage your renal 
hydronephrosis. During your admission you were seen by 
interventional radiology and had a left percutaneous nephrostomy 
tube placed. The team thinks it is now safe for you to go home. 
Please follow the instructions below:  

 - Attend all appointments with your obstetrician and all fetal 
scans  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___